US05965743
9.5 g of imidazole were dissolved in 100 ml of DMF, and the resultant solution was further added with 6.1 g of 60% NaH while cooling it with ice. The solution was then stirred for 30 min. and further for 1 hour at room temperature. Then, the solution was added with 20.0 g of 4-chloronitrobenzene and then stirred for 2 hours at a temperature of from 80 to 85° C. The solution reacted was poured into ice water, and the crystals precipitated was filtered and then dried to obtain 22.5 g of 4-(imidazole-1-yl)nitrobenzene.

reactant | imidazole | 9.5 g | N1C=NC=C1 | C3H4N2
reactant | NaH | 6.1 g | [H-].[Na+]
reactant | 4-chloronitrobenzene | 20.0 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(imidazole-1-yl)nitrobenzene | 22.5 g | N1(C=NC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O2
